US05122529
N-(2-fluoro-5-pyridyl)-cyclopropane carboxamide (2.0 g, 0.011 mol) was added portionwise to a stirred solution of phosphorus pentachloride (2.31 g, 0.011 mol) in dichloromethane (20 ml) under a nitrogen atmosphere at room temperature. After complete addition the mixture was stirred at room temperature for one hour and then heated at reflux for a further one hour. The reaction mixture was then evaporated under vacuum to gave N-(2-fluoro-5-pyridyl)-cyclopropylmethanimidoyl chloride (2.1 g, 96%) which was used in Stage 3 without further purification or characterisation.

reactant | N-(2-fluoro-5-pyridyl)-cyclopropane carboxamide | 0.011 mol, 2.0 g | FC1=NC=C(C=C1)NC(=O)C1CC1 | C9H9FN2O
reactant | phosphorus pentachloride | 0.011 mol, 2.31 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-(2-fluoro-5-pyridyl)-cyclopropylmethanimidoyl chloride | 2.1 g, 96% | FC1=NC=C(C=C1)N=C(C1CC1)Cl | C9H8ClFN2
